US08735387B2
4-[5-(4-Chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenol
20 ml of a 1 M solution of boron tribromide in dichloromethane was added to 435 mg of 5-(4-chloro-benzyl)-2-(4-methoxy-3,5-dimethyl-phenyl)-7-propoxy-oxazolo[5,4-d]pyrimidine (example 168, prepared analogously to the preparation of the compound of example 5). The reaction mixture was stirred at room temperature for 30 min. Upon completion of the reaction the solution was cooled with ice and a saturated sodium hydrogencarbonate solution was added until the pH was adjusted to 7. Filtration of the precipitate yielded the crude product which was purified by preparative HPLC (method HPLC2) to give 263 mg of the title compound.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 5-(4-chloro-benzyl)-2-(4-methoxy-3,5-dimethyl-phenyl)-7-propoxy-oxazolo[5,4-d]pyrimidine | 435 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)OC)C)OCCC)C=C1 | C24H24ClN3O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[5-(4-Chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenol | 263 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(C(=C3)C)O)C)OCCC)C=C1 | C23H22ClN3O3
